2109-08-31 11:22:00 Physician Attending Progress Note
Chief Complaint: Fecal impaction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Went to OR yesterday and had disimpaction under anesthesia.  Aso
   ischial ulcer probe to to tissue not to bone.
   Remains on norepinephrine
   24 Hour Events:
 OR RECEIVED - At [**2109-8-30**] 09:30 AM
 URINE CULTURE - At [**2109-8-30**] 11:17 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2109-8-30**] 04:10 PM
   Metronidazole - [**2109-8-31**] 03:31 AM
   Ciprofloxacin - [**2109-8-31**] 04:15 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-8-31**] 09:00 AM
   Morphine Sulfate - [**2109-8-31**] 09:30 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: Constipation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-8-31**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 77 (58 - 83) bpm
   BP: 87/40(51) {78/40(50) - 142/63(82)} mmHg
   RR: 19 (8 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,328 mL
                                                                  1,526 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  4,328 mL
                                                                  1,426 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,000 mL
   Urine:
                                                                  1,350 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,968 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, confused
   Labs / Radiology
   7.2 g/dL
   334 K/uL
   131 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   8 mg/dL
   113 mEq/L
   142 mEq/L
   23.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2109-8-29**]  11:55 AM
                             [**2109-8-29**]  05:57 PM
                             [**2109-8-30**]  03:59 AM
                             [**2109-8-30**]  02:54 PM
                             [**2109-8-31**]  03:18 AM
   WBC
   14.4
   11.5
   8.7
   Hct
   27.6
   25.5
   24.8
   23.8
   23.0
   Plt
   [**Telephone/Fax (3) 9971**]
   Cr
   0.7
   0.5
   0.4
   Glucose
   96
   87
   131
   Other labs: PT / PTT / INR:13.7/36.3/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
   82 y/o F with PMHx of severe dementia who presents with hypotension,
   large fecal impaction
   #  Septic shock: Cont cefepime/cipro/flagyl.  Will try to wean off
   levophed --> does have decerase in blood pressure with pain meds.
   Transfuse 1 unit pRBCs.  Lactulose/colasce/senna
   # Fecal Impaction: Surgery following.  Now post disimpaction
   # Buttock abcess: Draining - not consistent with osteo when probes.
   Wound care.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-29**] 08:00 AM
   PICC Line - [**2109-8-29**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2109-09-01 12:22:00 Physician Attending Progress Note
Chief Complaint: Septic shock, fecal impaction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to require low dose of levophed
   24 Hour Events:
   Brisk urine output
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2109-8-31**] 04:50 PM
   Ciprofloxacin - [**2109-9-1**] 03:17 AM
   Metronidazole - [**2109-9-1**] 05:00 AM
   Vancomycin - [**2109-9-1**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2109-8-31**] 09:45 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-9-1**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 133 (71 - 133) bpm
   BP: 102/50(63) {80/36(49) - 135/82(90)} mmHg
   RR: 20 (8 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,950 mL
                                                                  2,397 mL
   PO:
                                                                    390 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,210 mL
                                                                  2,337 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,100 mL
                                                                  1,780 mL
   Urine:
                                                                  3,100 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                    617 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, confused
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, confused
   Labs / Radiology
   9.5 g/dL
   352 K/uL
   124 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   3 mg/dL
   107 mEq/L
   139 mEq/L
   29.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2109-8-29**]  11:55 AM
                             [**2109-8-29**]  05:57 PM
                             [**2109-8-30**]  03:59 AM
                             [**2109-8-30**]  02:54 PM
                             [**2109-8-31**]  03:18 AM
                             [**2109-8-31**]  10:09 PM
                             [**2109-9-1**]  05:30 AM
   WBC
   14.4
   11.5
   8.7
   9.7
   Hct
   27.6
   25.5
   24.8
   23.8
   23.0
   28.9
   29.2
   Plt
   [**Telephone/Fax (3) 9986**]52
   Cr
   0.7
   0.5
   0.4
   0.4
   0.3
   Glucose
   96
   87
   131
   124
   Other labs: PT / PTT / INR:14.0/30.9/1.2, Lactic Acid:2.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
   82 y/o F with PMHx of severe dementia who presents with hypotension,
   large fecal impaction
   #  Septic shock: Cont cefepime/cipro/flagyl.  Still requiring levophed
   - will see if she can come off of it today.  Fluid boluses prn
   # Fecal Impaction: Now post disimpaction
   # Buttock abcess: Wound care
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-29**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill